US07034029B2
Preparation of 4-(4-Benzylpiperazin-1-yl)-1-(phenylsulfonyl)-1H-indazole hydrochloride
A solution of 4-(4-benzylpiperazin-1-yl)-1H-indazole (2.34 g, 8.00 mmol) in dry dimethyl formamide is treated with 0.48 g unwashed 60% NaH in mineral oil (12.0 mmol of NaH). After stirring under nitrogen for 15 min, the reaction is treated with benzenesulfonylchloride (1.53 mL, 12.0 mmol), stirred for 24 hr at ambient temperature, treated with saturated aqueous NaHCO3 and water and extracted with ether. The organic layer is washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo to give a residue. The residue is purified by flash chromatography on silica gel using 1:1 ethyl acetate:hexanes as eluant to afford the free amine of the title compound as an oil (3.14 g, 91%). A portion of this oil (432 mg, 1.0 mmol) is dissolved in ether and treated with 1.0M HCl in ether (1.1 mL, 1.1 mmol). The resulting solid is filtered, washed with ether, and dried under vacuum to provide the title compound as a light tan solid, mp 208–209° C., identified by HNMR and mass spectral analyses.

reactant | 4-(4-benzylpiperazin-1-yl)-1H-indazole | 8.00 mmol, 2.34 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=C2C=NNC2=CC=C1 | C18H20N4
reactant | NaH | [H-].[Na+]
reactant | NaH | 12.0 mmol | [H-].[Na+]
reactant | benzenesulfonylchloride | 12.0 mmol, 1.53 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(4-Benzylpiperazin-1-yl)-1-(phenylsulfonyl)-1H-indazole hydrochloride | 3.14 g, 91% | Cl.C(C1=CC=CC=C1)N1CCN(CC1)C1=C2C=NN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C24H24N4O2S.ClH/c29-31(30,21-10-5-2-6-11-21)28-24-13-7-12-23(22(24)18-25-28)27-16-14-26(15-17-27)19-20-8-3-1-4-9-20;/h1-13,18H,14-17,19H2;1H
